US06423713B1
This compound was synthesize by refluxing 2-chloro-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]pyrimidine prepared in accordance with Example A-299 in benzylamine overnight. The product, 4-[3-(4-fluorophenyl)-1H -pyrazol-4-yl]-N-(phenylmethyl)-2-pyrimidinamine, was obtained as a white solid in 95% yield; mp: 216-217° C.; Anal. Calc'd for C20H16FN5: C, 69.55; H, 4.67; N, 20.28. Found: C, 69.73; H, 4.69; N, 19.90.

reactant | 2-chloro-4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]pyrimidine | ClC1=NC=CC(=N1)C=1C(=NNC1)C1=CC=C(C=C1)F | C13H8ClFN4
solvent | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 4-[3-(4-fluorophenyl)-1H -pyrazol-4-yl]-N-(phenylmethyl)-2-pyrimidinamine | 95% yield | FC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)NCC1=CC=CC=C1 | C20H16FN5
